US04922022
(a) 6-[2-[3,4-Di(phenylmethoxy)-2-[2-[3-(phenylmethoxy]phenyl]ethyl]phenyl]ethylamino]-6-oxohexanoic acid
A solution of monomethyladipate (0.74 ml) and triethylamine (0.69 ml) in dry dichloromethane (50 ml) was stirred at 0° during the dropwise addition of a solution of ethyl chloroformate (0.48 ml) in dry dichloromethane (20 ml). The mixture was stirred under an atmosphere of nitrogen at 0° for 30 minutes and a solution of 3,4-Di(phenylmethoxy)-2-[2-[3-(phenylmethoxy]phenyl]ethyl]benzeneethanamine (2.70 g) in dry dichloromethane (50 ml) was then added. The mixture was stirred at 20° for 18 hours.

reactant | monomethyladipate | 0.74 ml | COC(CCCCC(=O)[O-])=O
reactant | triethylamine | 0.69 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 0.48 ml | ClC(=O)OCC | C3H5ClO2
reactant | 3,4-Di(phenylmethoxy)-2-[2-[3-(phenylmethoxy]phenyl]ethyl]benzeneethanamine | 2.70 g | C1(=CC=CC=C1)COC=1C(=C(C=CC1OCC1=CC=CC=C1)CCN)CCC1=CC(=CC=C1)OCC1=CC=CC=C1 | C37H37NO3
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 6-[2-[3,4-Di(phenylmethoxy)-2-[2-[3-(phenylmethoxy]phenyl]ethyl]phenyl]ethylamino]-6-oxohexanoic acid | C1(=CC=CC=C1)COC=1C(=C(C=CC1OCC1=CC=CC=C1)CCNC(CCCCC(=O)O)=O)CCC1=CC(=CC=C1)OCC1=CC=CC=C1 | C43H45NO6
